simulator lang=spectre
global 0

ahdl_include "./dut/analog_mux_threshold.va"

Vin1 (vin1 0) vsource type=pwl wave=[0 0.20 20n 0.20 20.1n 0.55 60n 0.55]
Vin2 (vin2 0) vsource type=pwl wave=[0 0.75 30n 0.75 30.1n 0.45 60n 0.45]
Vsel (vsel 0) vsource type=pwl wave=[0 0 10n 0 10.1n 0.9 30n 0.9 30.1n 0 60n 0]
XDUT (vin1 vin2 vsel vout) analog_mux_threshold vth=0.45

tran tran stop=45n maxstep=25p
save vin1 vin2 vsel vout
